US05654307
Crude 4,6-diamino-3-pyridylcarboxamide (9.2 g) is heated in purified (EtO)3CH (distilled from Na, 60 mL) at 170° C. for 1.5 d. After removing the solvent, the residue is dissolved in hot 2M NaOH, filtered, neutralized (conc. HCl) and cooled to give 7-amino-4-oxo-3H-pyrido[4,3-d]pyrimidine (3.57 g, 69% from the nitrile) as a light brown solid 1H NMR (DMSO) δ 11.79 (1H, brs), 8.74 (1H, s), 7.97 (1H, s), 6.76 (2H, brs), 6.38 (1H, s).

reactant | 4,6-diamino-3-pyridylcarboxamide | 9.2 g | NC1=C(C=NC(=C1)N)C(=O)N | C6H8N4O
reactant | (EtO)3CH | 60 mL | C(OCC)(OCC)OCC | C7H16O3
product | 7-amino-4-oxo-3H-pyrido[4,3-d]pyrimidine | NC1=CC=2N=CNC(C2C=N1)=O | C7H6N4O
